US07041416B2
427.5 parts of 1-methoxy-2-propanol were charged in a reaction vessel and heated under a nitrogen flow so that the internal temperature of the vessel was 70° C. Then a solution in which 18.5 parts of methacrylic acid, 46.5 parts of allyl methacrylate, 29.9 parts of benzyl acrylate (composition ratio of these methacrylic acid and esters was 28:48:24 in molar ratio), and 3.82 parts of V-65 (2,2′-azobis-(2,4′-dimethylvaleronitrile), manufactured by Wako Pure Chemical Co.) were dissolved in 427.5 parts of 1-methoxy-2-propanol was dropwise added into the vessel over a period of 2.5 hours. The mixture was agitated further for 2 hours under heating at 70° C. The obtained reaction liquid was poured into 5000 parts of water, and the resulting solid was separated by filtration and dried under vacuum to obtain a methacrylic acid/allyl methacrylate/benzyl acrylate terpolymer (terpolymer 3). The weight-average molecular weight of the terpolymer was 36,000 (converted as polystyrene).

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | benzyl acrylate | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | 2,2′-azobis-(2,4′-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
solvent | water | O | H2O
product | methacrylic acid allyl methacrylate benzyl acrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)OCC=C.C(C=C)(=O)OCC1=CC=CC=C1 | InChI=1S/C10H10O2.C7H10O2.C4H6O2/c1-2-10(11)12-8-9-6-4-3-5-7-9;1-4-5-9-7(8)6(2)3;1-3(2)4(5)6/h2-7H,1,8H2;4H,1-2,5H2,3H3;1H2,2H3,(H,5,6)
